US07368578B2
A mixture of 4-(4-chloromethyl-2-ethoxyphenoxy)methyl-5-methyl-2-(2-furyl)-1,3-oxazole (2.33 g), ethyl 1-benzyl-3-hydroxy-1H-pyrazole-4-carboxylate (1.50 g), potassium carbonate (0.84 g) and N,N-dimethylformamide (50 mL) was stirred at 90° C. for 2 hrs. Water was poured into the reaction mixture, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated to give ethyl 1-benzyl-3-[(3-ethoxy-4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}benzyl)oxy]-1H-pyrazole-4-carboxylate as colorless crystals (3.02 g, yield 89%). Recrystallization from ethyl acetate-hexane gave colorless prism crystals. melting point: 121-122° C.

reactant | 4-(4-chloromethyl-2-ethoxyphenoxy)methyl-5-methyl-2-(2-furyl)-1,3-oxazole | 2.33 g | ClCC1=CC(=C(OCC=2N=C(OC2C)C=2OC=CC2)C=C1)OCC | C18H18ClNO4
reactant | ethyl 1-benzyl-3-hydroxy-1H-pyrazole-4-carboxylate | 1.50 g | C(C1=CC=CC=C1)N1N=C(C(=C1)C(=O)OCC)O | C13H14N2O3
reactant | potassium carbonate | 0.84 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
product | ethyl 1-benzyl-3-[(3-ethoxy-4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}benzyl)oxy]-1H-pyrazole-4-carboxylate | 3.02 g, yield 89% | C(C1=CC=CC=C1)N1N=C(C(=C1)C(=O)OCC)OCC1=CC(=C(C=C1)OCC=1N=C(OC1C)C=1OC=CC1)OCC | C31H31N3O7
